US05665777
To a solution in ethylene glycol dimethyl ether (30 mL) of 4-(4-iodophenoxy)butyric acid ethyl ester (0.50 g, 1.5 mmol), prepared as in Example 5, step 1, was added tetrakis(triphenylphosphine)palladium(0) (87 mg, 75 μM), and the mixture was stirred for 15 minutes. A solution in ethanol (9.6 mL) of 4-methoxyphenylboronic acid (0.25 g, 1.64 mmol) was then added. Saturated aqueous NaHCO3 (15 mL) was then poured in quickly and the reaction mixture was warmed to reflux and heated for one hour. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was partitioned between ethyl acetate and 10% aqueous Na2CO3. The organic phase was washed with 10% aqueous Na2CO3 and brine, dried over Na2SO4, filtered, and concentrated in vacuo. Chromatography on silica gel (20:1, then 10:1, then 5:1 hexane/ethyl acetate) gave 4-[4-(4-methoxyphenyl)phenoxy]butanoic acid ethyl ester (0.27 g, 57%) as white feathery needles.

reactant | 4-(4-iodophenoxy)butyric acid ethyl ester | 1.5 mmol, 0.50 g | C(C)OC(CCCOC1=CC=C(C=C1)I)=O | C12H15IO3
reactant | 4-methoxyphenylboronic acid | 1.64 mmol, 0.25 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | ethylene glycol dimethyl ether | 30 mL | COCCOC | C4H10O2
solvent | ethanol | 9.6 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 75 μM, 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[4-(4-methoxyphenyl)phenoxy]butanoic acid ethyl ester | 0.27 g, 57% | C(C)OC(CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OC)=O | C19H22O4
